US03972936
A mixture of 1 gram of 5-(1-bromopropyl)-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cycloheptene and 20 ml. of liquid ammonia is heated in a sealed tube at 100°C. for 8 hours. After cooling, the ammonia is allowed to evaporate at room temperature and the residual product diluted with ether and the ethereal solution of the product washed with water, dried, and concentrated to leave as a residue 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cycloheptene-5-propylamine.

reactant | 5-(1-bromopropyl)-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cycloheptene | 1 gram | BrC(CC)C1C2=C(C(C(C3=C1C=CC=C3)(F)F)(F)F)C=CC=C2 | C18H15BrF4
reactant | ammonia | N | H3N
product | 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cycloheptene-5-propylamine | FC1(C(C2=C(C(C3=C1C=CC=C3)CCCN)C=CC=C2)(F)F)F | C18H17F4N
